US05837673
1-[5'-(3"-t-Butoxycarbonylaminopropyloxy)-2'-nitrophenyl]-2-propen-1-one (325 mg) is dissolved in ethanol (15 ml), and thereto is added 10% palladium-carbon (40 mg), and the mixture is stirred for 1.5 hour under hydrogen atmosphere. The catalyst is removed by filtration, and the filtrate is concentrated, and the residue is purified by silica gel column chromatography to give 1-[5'-(3"-t-butoxycarbonylaminopropyloxy)-2'-aminophenyl]-propan-1-one (248 mg) as a yellow powder.

reactant | 1-[5'-(3"-t-Butoxycarbonylaminopropyloxy)-2'-nitrophenyl]-2-propen-1-one | 325 mg | C(C)(C)(C)OC(=O)NCCCOC=1C=CC(=C(C1)C(C=C)=O)[N+](=O)[O-] | C17H22N2O6
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 40 mg | [C].[Pd]
product | 1-[5'-(3"-t-butoxycarbonylaminopropyloxy)-2'-aminophenyl]-propan-1-one | 248 mg, Yield: 83% | C(C)(C)(C)OC(=O)NCCCOC=1C=CC(=C(C1)C(CC)=O)N | C17H26N2O4
